US07427635B2
[4-(1-Hydroxy-1-methyl-ethyl)-thiazol-2-yl]-carbamic acid tert-butyl ester (250 mg, 0.92 mmol) was taken into dry dichloromethane and cooled in an ice bath. To this was added trifluoroacetic acid and the mixture stirred at 0° C. for 4 hours. The mixture was evaporated and the residue partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic layer was separated out and the aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over sodium sulfate and evaporated. Chromatography of the residue over silica gel gradient eluted with 1:99 up to 3:97 methanol in dichloromethane gave [4-(1-hydroxy-1-methyl-ethyl)-thiazol-2-yl]-carbamic acid (56 mg, 39%) as a white solid.

reactant | [4-(1-Hydroxy-1-methyl-ethyl)-thiazol-2-yl]-carbamic acid tert-butyl ester | 0.92 mmol, 250 mg | C(C)(C)(C)OC(NC=1SC=C(N1)C(C)(C)O)=O | C11H18N2O3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [4-(1-hydroxy-1-methyl-ethyl)-thiazol-2-yl]-carbamic acid | 56 mg, 39% | OC(C)(C)C=1N=C(SC1)NC(O)=O | C7H10N2O3S
